US07977343B2
7.1 93.84 μl of triethylamine are added dropwise to a mixture of 75 mg of (R)-2-(2-chlorophenoxymethyl)pyrrolidine trifluoroacetate and 39.5 mg of 2-amino-6-chloro-9H-purine in 1 ml of n-butanol. The reaction mixture is stirred at 100° for 2.5 hours. The mixture is cooled, the deposited precipitate is separated off, and the filtrate is chromatographed directly on a 12 g RP18 column. The isolated product fractions are subjected to conventional purification, giving 45.4 mg of 2-amino-6-[(R)-2-(2-chlorophenoxymethyl)-pyrrolidin-1-yl]-9H-purine (“A36”); HPLC retention time 2.77 minutes; gradient P2; [M+H]+ 345.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | (R)-2-(2-chlorophenoxymethyl)pyrrolidine trifluoroacetate | 75 mg | FC(C(=O)O)(F)F.ClC1=C(OC[C@@H]2NCCC2)C=CC=C1
reactant | 2-amino-6-chloro-9H-purine | 39.5 mg | NC1=NC(=C2N=CNC2=N1)Cl | C5H4ClN5
solvent | n-butanol | 1 ml | C(CCC)O | C4H10O
product | 2-amino-6-[(R)-2-(2-chlorophenoxymethyl)-pyrrolidin-1-yl]-9H-purine | 45.4 mg | NC1=NC(=C2N=CNC2=N1)N1[C@H](CCC1)COC1=C(C=CC=C1)Cl | C16H17ClN6O
